US06632963B1
Synthesis of 3-(3′,5′-di-tert-Butyl-2′-methoxy-3-biphenylyl)acrylic Acid
2.2 g (8.3 mmol) of 2-methoxy-3,5-di-tert-butylphenylboronic acid, 942 mg (4.15 mmol) of 3-bromocinnamic acid and 70 ml of DME were introduced into a three-necked flask under a stream of nitrogen. 11.4 ml of aqueous potassium carbonate solution (2M) were added dropwise and the reaction medium was degassed. 144 mg (0.12 mmol) of tetrakistriphenylphosphinepalladium(0) were then added and the mixture was refluxed for 20 hours. Water and ethyl acetate were added to the reaction medium and this mixture was acidified to pH 1 with hydrochloric acid. The organic phase was separated out after settling had taken place, washed with water, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (75/25). After evaporation of the solvents, 990 mg (66%) of 3-(3′,5′-di-tert-butyl-2′-methoxy-3-biphenylyl)acrylic acid having a melting point of 182°-3° C. were collected.

reactant | 2-methoxy-3,5-di-tert-butylphenylboronic acid | 8.3 mmol, 2.2 g | COC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)B(O)O | C15H25BO3
reactant | 3-bromocinnamic acid | 4.15 mmol, 942 mg | BrC=1C=C(C=CC(=O)O)C=CC1 | C9H7BrO2
reactant | potassium carbonate | 2M, 11.4 ml | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.12 mmol, 144 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | DME | 70 ml | COCCOC | C4H10O2
product | 3-(3′,5′-di-tert-Butyl-2′-methoxy-3-biphenylyl)acrylic Acid | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)C1=CC(=CC=C1)C=CC(=O)O)OC | C24H30O3
